US06358980B1
1-Acetyl-4-[[[4-(2-butynyloxy)phenyl]sulfonyl]methyl]-4-piperidinecarboxylic acid, ethyl ester
To a solution of 4-[[[4-(2-Butynyloxy)phenyl]sulfonyl]methyl]-4-piperidinecarboxylic acid ethyl ester (0.24 g, 0.576 mmol), triethylamine (0.32 ml) and catalytic amount of 4-Dimethylaminopyridine in 6.0 mL of CH2Cl2 was added a solution of acetyl chloride (0.068 ml, 0.864 mmol) in 1.0 mL of CH2Cl2. The reaction stirred at room temperature for 4 h and washed with H2O, brine, dried over MgSO4, filtered through a pad of silica gel and concentrated to provide 0.242 g (100%) of the desired product as a colorless gum. Electrospray Mass Spec: 422.2 (M+H)+

reactant | 4-[[[4-(2-Butynyloxy)phenyl]sulfonyl]methyl]-4-piperidinecarboxylic acid ethyl ester | 0.576 mmol, 0.24 g | C(C)OC(=O)C1(CCNCC1)CS(=O)(=O)C1=CC=C(C=C1)OCC#CC | C19H25NO5S
reactant | triethylamine | 0.32 ml | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.864 mmol, 0.068 ml | C(C)(=O)Cl | C2H3ClO
catalyst | 4-Dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | CH2Cl2 | 6.0 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 1.0 mL | C(Cl)Cl | CH2Cl2
product | 1-Acetyl-4-[[[4-(2-butynyloxy)phenyl]sulfonyl]methyl]-4-piperidinecarboxylic acid, ethyl ester | 0.242 g, 100% | C(C)(=O)N1CCC(CC1)(C(=O)OCC)CS(=O)(=O)C1=CC=C(C=C1)OCC#CC | C21H27NO6S
